US07544826B2
A solution of 6.8 g (32 mmol) of 8-bromoquinoline in 90 ml of tetrahydrofuran was cooled to −90° C., and 12.8 ml of n-butyllithium (2.5 M in hexane, 32 mmol) were subsequently added while stirring. After stirring for 15 minutes at this temperature, 5.3 g (32 mmol) of 2-methyl-3-pentylcyclopent-2-enone (dihydroisojasmone) were added while stirring. The mixture was stirred at this temperature for a further one hour, allowed to warm to room temperature and then refluxed for one hour. After cooling to room temperature, a mixture of 30 g of ice and 30 g of concentrated hydrochloric acid was added and the resulting mixture was refluxed for 2 hours. The mixture was allowed to cool to room temperature while stirring and ammonia solution was added until a pH of 12 had been reached. The aqueous phase was then separated off from the organic phase and the aqueous phase was extracted twice with diethyl ether. The organic phases were combined, dried over magnesium sulfate, filtered and the solvent was distilled off. The residue was dissolved in 5 ml of toluene and then admixed with 80 ml of hexane. The precipitate formed was filtered off and dried. The residue obtained in this way was distilled at >110° C. and 1×10−2 mbar to give 2.6 g of 2-methyl-3-pentyl-1-(8-quinolyl)cyclopentadiene.

reactant | 8-bromoquinoline | 32 mmol, 6.8 g | BrC=1C=CC=C2C=CC=NC12 | C9H6BrN
reactant | n-butyllithium | 32 mmol, 2.5 M, 12.8 ml | C(CCC)[Li]
reactant | 2-methyl-3-pentylcyclopent-2-enone | 32 mmol, 5.3 g | CC=1C(CCC1CCCCC)=O | C11H18O
reactant | hydrochloric acid | 30 g | Cl | ClH
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 2-methyl-3-pentyl-1-(8-quinolyl)cyclopentadiene | 2.6 g | CC1=C(CC=C1CCCCC)C=1C=CC=C2C=CC=NC12 | C20H23N
